US07285558B2
Preparation of 4-acetyl-1-methyl-1-H-pyrrole-2-carbaldehyde
To a suspension of aluminium chloride (22.9 g, 172 mmol) in anhydrous dichloromethane (100 ml) and acetylchloride (4.5 g, 57.3 mmol)was added a solution of 1-methyl pyrrole-2-carboxaldehyde (5 g, 46 mmol) in anhydrous. dichloromethane (20 ml). The mixture was refluxed for 90 min, poured into ice and stirred until melted. The layers were separated and aqueous layer was extracted with dichloromethane (2×100 ml). The organic phase and extracts were combined, dried over sodium sulfate. The solvent was removed in vacuo to give the title compound (6.8 g, 94%), 1H NMR (d6-DMSO) d 9.6 (s, 1H), 7.9 (s, 1H), 7.4 (s, 1H), 3.9 (s, 3H),2.4 (s,3H)

reactant | aluminium chloride | 172 mmol, 22.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 57.3 mmol, 4.5 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-methyl pyrrole-2-carboxaldehyde | 46 mmol, 5 g | CN1C(=CC=C1)C=O | C6H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-acetyl-1-methyl-1-H-pyrrole-2-carbaldehyde | 6.8 g, 94% | C(C)(=O)C=1C=C(N(C1)C)C=O | C8H9NO2
